US08957064B2
7-(4-formylphenyl)-6-phenylimidazo[1,2-a]pyrimidine-3-carbonitrile
350 mg 4-(3-bromo-6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde, 5.6 mg Zn, 63.7 mg Zn(CN)2 and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct were suspended in dimethylacetamide and the mixture was heated for 45 min under microwave irradiation to 160° C. The workup was performed by diluting the mixture with water and dichlormethane, extracting the aqueous layer twice and drying the combined organic layers over Na2SO4. The compound was isolated by evaporation of the solvent and chromatography on silica gel (dichloromethane/methanol).

reactant | 4-(3-bromo-6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde | 350 mg | BrC1=CN=C2N1C=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2 | C19H12BrN3O
reactant | dimethylacetamide | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
solvent | dichlormethane | ClCCl | CH2Cl2
catalyst | Zn | 5.6 mg | [Zn] | Zn
catalyst | Zn(CN)2 | 63.7 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 7-(4-formylphenyl)-6-phenylimidazo[1,2-a]pyrimidine-3-carbonitrile | C(=O)C1=CC=C(C=C1)C1=NC=2N(C=C1C1=CC=CC=C1)C(=CN2)C#N | C20H12N4O
